US04209626
1,2-Dihydro-5-(3-methylphenyl)-2-oxo-3-pyridinecarbonitrile
In the manner described in Example 6, a solution of 13.7 g. of sodium methoxide and 10.7 g. of cyanoacetamide in 250 ml. of methanol and 24.0 g. of 3-(dimethylamino)-2-(3-methylphenyl)-2-propenal is refluxed overnight to give 12.0 g. of the product of the Example as a yellow solid, m.p. 254.5°-260° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | cyanoacetamide | C(#N)CC(=O)N | C3H4N2O
reactant | 3-(dimethylamino)-2-(3-methylphenyl)-2-propenal | CN(C=C(C=O)C1=CC(=CC=C1)C)C | C12H15NO
solvent | methanol | CO | CH4O
product | 1,2-Dihydro-5-(3-methylphenyl)-2-oxo-3-pyridinecarbonitrile | CC=1C=C(C=CC1)C=1C=C(C(NC1)=O)C#N | C13H10N2O
